US08084643B2
Upon stirring a solution of di-t-butyl dicarbonate (24.5 g) in 50 mL of tetrahydrofuran at −10° C., 2-(ethylamino)ethanol (11 mL) and triethylamine (16 mL) were added sequentially. The solution was stirred at room temperature for 1.5 hours, diluted with ethyl acetate, washed sequentially with 1 M HCl(aq) and saturated NaCl(aq). The organic layer was separated and rapidly filtered through a pad of silica gel and sodium sulfate. The filtrate was concentrated and the crude product was dried under reduced pressure to give ethyl-(2-hydroxy-ethyl)-carbamic acid t-butyl ester as a pale oil (21 g, 99% yield); H1-NMR (CDCl3), δ=1.1 ppm (t, 3H), 1.4 ppm (s, 9H), 2.7 ppm (s, 1H), 3.2 ppm (q, 2H), 3.4 ppm (t, 2H), 3.7 ppm (t, 2H).

reactant | di-t-butyl dicarbonate | 24.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(ethylamino)ethanol | 11 mL | C(C)NCCO | C4H11NO
reactant | triethylamine | 16 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl-(2-hydroxy-ethyl)-carbamic acid t-butyl ester | 21 g, 99% yield | C(C)(C)(C)OC(N(CCO)CC)=O | C9H19NO3
